US06472397B1
To a suspension of 99.6 mg of n-butyl 4-[[2-oxo-4-(piperidin-4-yl)-piperazin-1-yl]acetyl]phenoxyacetate dihydrochloride synthesized according to the method described in WO962503 in 2 ml of methylene chloride were added 151 mg of proton sponge and 26 μl of 1-chloroethyl chloroformate with stirring at 0° C., and the mixture was stirred at room temperature for 18 hours. The reaction mixture thus obtained was poured into 2 ml of water, and extracted three times with 4 ml of ethyl acetate. The organic layer collected was dried over magnesium sulfate, and the solvent was removed by distillation to give 82.7 mg of n-butyl 4-[[4-[1-(1-chloroethyl)oxycarbonylpiperidin-4-yl]-2-oxopiperazin-1-yl]acetyl]phenoxyacetate as a crude crystalline product.

reactant | n-butyl 4-[[2-oxo-4-(piperidin-4-yl)-piperazin-1-yl]acetyl]phenoxyacetate dihydrochloride | 99.6 mg | Cl.Cl.O=C1N(CCN(C1)C1CCNCC1)CC(=O)C1=CC=C(OCC(=O)OCCCC)C=C1
reactant | proton sponge | 151 mg | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 26 μl | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | water | 2 ml | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | n-butyl 4-[[4-[1-(1-chloroethyl)oxycarbonylpiperidin-4-yl]-2-oxopiperazin-1-yl]acetyl]phenoxyacetate | 82.7 mg | ClC(C)OC(=O)N1CCC(CC1)N1CC(N(CC1)CC(=O)C1=CC=C(OCC(=O)OCCCC)C=C1)=O | C26H36ClN3O7
